US05306562
5-(9-Oxoxanthen-2-oxy)valeric Acid
Ethyl 5-(9-oxoxanthen-2-oxy)valerate (7.0 g, 21 mmol) prepared as described above was suspended in 95% EtOH (50 mL), and 4 N aqueous NaOH (50 mL, 0.2 mmol) was added. The reaction mixture was homogeneous within 1h, and saponification proceeded at 25° C. for a total of 4 h. Subsequently, 12 N aqueous HCl (17 mL) was added with cooling to adjust the pH to 3. A light-gray precipitate formed, which was collected, washed with water (3×10 mL), and dried in vacuo over P2O5, to give the free acid product. Yield: 6.1 g (94%). A small amount of the product was recrystallized from n-hexane-EtOH (10:1) for elemental analysis in accordance with structure. Light beige needles, m.p. 151-152° C.

reactant | Ethyl 5-(9-oxoxanthen-2-oxy)valerate | 21 mmol, 7.0 g | O=C1C2=CC=CC=C2OC=2C=CC(=CC12)OCCCCC(=O)OCC | C20H20O5
reactant | NaOH | 0.2 mmol, 4 N, 50 mL | [OH-].[Na+]
reactant | HCl | 12 N, 17 mL | Cl | ClH
solvent | EtOH | 50 mL | CCO | C2H6O
product | 5-(9-Oxoxanthen-2-oxy)valeric Acid | O=C1C2=CC=CC=C2OC=2C=CC(=CC12)OCCCCC(=O)O | C18H16O5
